US06008362
2-[1-(4-Chloro-phenyl)-4-chloro-butylidene]-hydrazinecarbothioamide
Thiosemicarbazide (9.11 g, 0.1 mol) was added under nitrogen to a solution of 4,4'-dichlorobutyrophenone (21.7 g, 0.1 mol) in 350 mL of methanol plus 27 mL of 1N HCl plus 25 mL of water and the reaction stirred at room temperature for 21 hours (overnight). The solid was collected by filtration and dried to give 20.23 g of a white solid. Recrystallization of the solid from isopropyl alcohol gave 8.37 g (29%) of the title compound as a light yellow solid, mp 125-126° C.

reactant | Thiosemicarbazide | 0.1 mol, 9.11 g | NNC(=S)N | CH5N3S
reactant | 4,4'-dichlorobutyrophenone | 0.1 mol, 21.7 g | ClCCCC(=O)C1=CC=C(C=C1)Cl | C10H10Cl2O
solvent | methanol | 350 mL | CO | CH4O
solvent | HCl | 1N, 27 mL | Cl | ClH
solvent | water | 25 mL | O | H2O
product | 2-[1-(4-Chloro-phenyl)-4-chloro-butylidene]-hydrazinecarbothioamide | 20.23 g | ClC1=CC=C(C=C1)C(CCCCl)=NNC(N)=S | C11H13Cl2N3S
